US08222424B2
The mesylate (1.0 equivalent) is combined with the HCl salt of the benzyl hydrazine (1.5 equivalent) and sodium acetate (3.0 equivalent) in xylenes (6 vol). The mixture is heated to reflux in a Dean-Stark apparatus until completion. The reaction is cooled to room temperature, poured into 1 N HCl and extracted with toluene. The combined organic extracts are dried over sodium sulfate and concentrated to afford the crude indazole which is purified by flash chromatography.

reactant | mesylate | 1.0 equivalent | S(C)(=O)(=O)[O-]
reactant | HCl | Cl | ClH
reactant | benzyl hydrazine | 1.5 equivalent | C(C1=CC=CC=C1)NN | C7H10N2
reactant | sodium acetate | 3.0 equivalent | C(C)(=O)[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
product | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
